US06121307
2-(2-Methoxy-phenoxy)propylamine
To a solution of 2-(2-methoxy-phenoxy)-propionitrile (3.91 g, 0.022 mol) in anhydrous ethyl ether (30 ml) was added lithium aluminum hydride (1.0 M, 44 ml, 0.044 mol). The mixture was heated at 65° C. for 18 hours and the reaction was quenched with water (3 ml), 15% NaOH (3 ml) and water (9 ml). The resulting material was filtered through celite. The celite was washed with methanol (200 ml), and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 0.26 g (7%) of product as yellow oil. MS EI m/e 181 (M+).

reactant | 2-(2-methoxy-phenoxy)-propionitrile | 0.022 mol, 3.91 g | COC1=C(OC(C#N)C)C=CC=C1 | C10H11NO2
reactant | lithium aluminum hydride | 0.044 mol, 1.0 M, 44 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(2-Methoxy-phenoxy)propylamine | 0.26 g, 7% | COC1=C(OC(CN)C)C=CC=C1 | C10H15NO2
